US04173650
To a mixture of 68.5 g. of p-chlorobenzonitrile and 24.0 g. of sodium hydride (50% in mineral oil) in 250 ml. of ether is added, 26.1 ml. of acetonitrile and 2 ml. of isopropanol. The mixture is stirred and refluxed on a steam bath for 6 hours and then stirred overnight at room temperature. A 5 ml. portion of methanol and 250 ml. of water are added. The ether is boiled away on a steam bath and the mixture is filtered. The solid is dissolved in warm ethyl acetate and filtered. The filtrate is evaporated to a solid giving β-amino-4-chlorocinnamonitrile.

reactant | p-chlorobenzonitrile | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | sodium hydride | [H-].[Na+]
reactant | acetonitrile | C(C)#N | C2H3N
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
solvent | methanol | CO | CH4O
solvent | isopropanol | C(C)(C)O | C3H8O
product | β-amino-4-chlorocinnamonitrile | NC(=CC#N)C1=CC=C(C=C1)Cl | C9H7ClN2
